US07432281B2
2,2,2-Trifluoroethyldiphenylphosphine Oxide
A mixture of ethyl diphenylphosphonite (1.98 g; 5.8 mmol) and 2,2,2-trifluoroethyl iodide (6.1 g; 29 mmol) was stirred at room temperature under nitrogen for 24 hrs. The excess reagents were removed under vacuum. The residue was purified on silica gel using a 0-100% hexane-ethyl acetate gradient to give the target as a white powder (800 mg; 49%).

reactant | ethyl diphenylphosphonite | 5.8 mmol, 1.98 g | C1(=CC=CC=C1)P(OCC)([O-])C1=CC=CC=C1
reactant | 2,2,2-trifluoroethyl iodide | 29 mmol, 6.1 g | FC(CI)(F)F | C2H2F3I
product | 2,2,2-Trifluoroethyldiphenylphosphine Oxide | FC(CP(C1=CC=CC=C1)(C1=CC=CC=C1)=O)(F)F | C14H12F3OP
